rxngraphormer/midgen/collections/MT_library.csv
MT_class,mechanistic pathway,
Vilsmeier_formylation,"[(6, [6, 2]), ([2, 1], 7), ([7, 8], 8), (8, [8, 7]), ([7, 9], 9), (9, 2), ([2, 6], 6), (6, [6, 2]), ([2, 1], [1, 7]), ([7, 8], 8), ([4, 3], 2), ([2, 6], 6), (8, 3.1), ([3.1, 3], [3, 4]), (6, [6, 2]), ([2, 9], 9), (10, 2), ([2, 6], 6), (9, 10.1), ([10.1, 10], [10, 2]), ([2, 6], 6), (6, 10.1), ([10.1, 10], 10)]",
Mitsunobu,"[(4,7), ([7,8],8), (8,[8,5]), ([5,6],6), (6,[6,5]), ([5,8],1.1), ([1.1,1],1), (3,4), ([4,7],7), (7,3.1), ([3.1,3],3), (1,2), ([2,3],[3,4])]",
Cbz_deprotection,"[(3,12.1), ([12.1,12],12), (12,5), ([5,4],[4,2]), ([2,3],3), (1,3.1), ([3.1,3],3), (3,[3,2]), ([2,1],1) ]",
alcohol_chlorination,"[(3, 5), ([5, 6], 6), (6, [6, 5]), ([5, 2], 2), (2, 1), ([1, 3], [3, 5]), ([5, 4], 4)]",
SN2_with_tosylate,"[(3,4), ([4,5],5), (5,[5,4]), ([4,6],6), (6,3.1), ([3.1,3],3),  (1,2), ([2,3],3), (3,1.1), ([1.1,1],1)]",
Fmoc_deprotection,"[(19,6.1), ([6.1,6],6), (6,[6,5]), ([5,4],4), (4,[4,2]), ([2,1],1), (1,19.1), ([19.1,19],19)]",
acyl_chloride_formation,"[(4, 6), ([6, 7], 7), (7, [7, 6]), ([6, 1], 1), (1, 2), ([2, 3], 3), (3, [3, 2]), ([2, 4], [4, 6]), ([6, 5], 5)]",
nucleophilic_attack_to_iso(thio)cyanate,"[(1, 2), ([2, 4], 4), (4,1.1), ([1.1,1],1), (4, [4, 2]), ([2, 3], 3), (3,4.1), ([4.1,4],4)]",
alcohol_condensation,"[(3, 4), (1, 2), ([2, 3], 3), ([1.1,1],1)]",
SNAr_alco(thi)ol(para),"[(6,1.1), ([1.1,1],1), (1, 2), ([2, 'xl1'], ['xl1','xl2']), (['xl2','xl3'],['xl3','xl4']), (['xl4','xl5'],'xl5'), ('xl5',['xl5','xl4']), (['xl4','xl3'],['xl3', 'xl2']), (['xl2','xl1'],['xl1', 2]), ([2, 5], 5)]",
Michael_addition,"[(4,1.1), ([1.1,1],1), (1, 2), ([2, 3], [3,'xl1']), (['xl1','xl2'], 'xl2'), ('xl2', ['xl2','xl1']),(['xl1',3], 4.1), ([4.1,4],4)]",
Friedel_Crafts_acylation,"[(6, 7), ([2, 6], 6), ([5, 3], 2), ([7, 6], 3.1), ([3.1, 3], [3, 5])]",
Jones_oxidation,"[(2, 3), ([3, 4], 4), (4, [4, 3]), ([3, 5], 2.1), ([2.1, 2], 2), ([3, 4], 1.1), ([1.1, 1], [1, 2]), ([2, 3], 3)]",
imidazole_synthesis,"[(10,4.1), ([4.1,4],4), (4,6), ([6,7],7), (7,[7,6]), ([6,8],[8,9]), ([9,10],10), (1, 2), ([2, 5], 5), (5, [5, 2]), ([2, 4], [4,6]), ([6,11],[11,12]), ([12,13],13), (13,1.1), ([1.1,1],1),  (3, 2), ([2, 5], 5), (5, 3.1), ([3.1, 3], 3), (5, 3.1), ([3.1,3], [3, 2]), ([2, 5], 5)]",
alkene_epoxidation,"[ ([1, 2], 3), ([3, 6], [6, 4]), ([4, 5], 3.1), ([3.1, 3], 1)]",
sulfide_oxidation,"[(1, 2), ([2, 3], [3, 4]), ([4, 5], 2.1), ([2.1, 2], 2), (2, [2, 1])]",
DCC_condensation,"[(5, 4.1), ([4.1, 4], 4), (4, 6), ([6, 5], 5), (1, 2), ([2, 3], 3), (7, 1.1), ([1.1, 1], 1), (3, [3, 2]), ([2, 4], 4), (4, [4, 6]), ([6, 7], 7)]",
acetal_formation,"[(4,5), (1,2), ([2,4],4), (4,1.1), ([1.1,1],1), (1,[1,2]), ([2,4],4), (3,2), ([2,1],1), ([3.1,3],3), ]",
Grignard,"[([4, 1], 2), ([2, 3], 4), (5, 4), ([4, 3], 3), (3,5.1), ([5.1,5],5)]",
Horner_Wadsworth_Emmons,"[(6, 2.1), ([2.1, 2], 2), (2, 1), ([1, 3], 4), ([4,5],5), ([1, 3], [3, 4]), ([4, 2], [2, 1])]",
SNAr_CuCN,"[([6, 2], 2), (2, 3), ([3, 4], 4), (4, [4, 3]), ([3, 7], 7)]",
SNAr(ortho),"[(1, 2), ([2, 'xl1'], ['xl1','xl2']), (['xl2','xl3'],'xl3'), ('xl3',['xl3','xl2']), (['xl2','xl1'],['xl1', 2]), ([2, 5], 5)]",
SNAr_alco(thi)ol(ortho),"[(6,1.1), ([1.1,1],1), (1, 2), ([2, 'xl1'], ['xl1','xl2']), (['xl2','xl3'],'xl3'), ('xl3',['xl3','xl2']), (['xl2','xl1'],['xl1', 2]), ([2, 5], 5)]",
Paal_Knorr_pyrrole_synthesis,"[(1,2), ([2,6],6), (6,1.1), ([1.1,1],1), (1,5), ([5,7],7), (7,1.1), ([1.1,1],1), (6,3.1), ([3.1,3],[3,2]), ([2,6],6), (7,4.1), ([4.1,4],[4,5]), ([5,7],7), ]","# previous [(6,8), (1, 2), ([2, 6], 6), (6, 1.1), ([1.1, 1], 1), (1,[1,2]), ([2,6],6), (7, 3.1), ([3.1,3],[3,2]), ([2,1], 5),  ([5, 7], 7), (7, 4.1),  ([4.1,4],[4,5]), ([5, 7], 7), ([1.1,1],1)]"
Wolf_Kishner_reduction,"[(3,1), ([1,2], 5), (2,3.1), ([3.1,3],3), (3,[3,1]), ([1,2],2), ([3.1,3],3), (6,4.1), ([4.1,4], [4,3]), ([3,1], 1), (1,6.1),([6.1,6],6), (6,4.1), ([4.1,4], [4,3]), ([3,1], 1), (1,6.1), ([6.1,6],6)]",
O_demethylation,"[(1, 3), ([3, 4], 4), (4, 2), ([2, 1], 1), (5, 3), ([3, 1], 1)]",
carbonyl_reduction,"[([3, 3.1], 1), ([1, 2], 2), (2,4.1), ([4.1,4],4)]",
Wittig_ver_2,"[([4, 2], 1), ([1, 3], 4), ([1, 3], [3, 4]), ([4, 2], [2, 1])]",
Hantzsch_thiazole_synthesis,"[(2, [2, 1]), ([1, 5], 4), ([4, 6], 6), (6, 2.1), ([2.1, 2], 2), (7, 6.1), ([6.1, 6], 6),  (2, 3), ([3, 7], 7), (6, 2.1), ([2.1, 2], 2), (7,6.1), ([6.1,6], 6), (6,4.1), ([4.1,4], [4,3]), ([3, 7], 7)]",
Huisgen_cycloaddition,"# [(3, 2), ([2, 1], 5), ([5, 4], 4)]",
isothiocyanate_synthesis,"[(1, 2), ([2, 3], 3), (3, [3, 2]), ([2, 4], 4), (4, 1.1), ([1.1, 1], 1), (1, [1, 2]), ([2, 5], 5), (5, 1.1), ([1.1, 1], 1)]",
secondary_amide_dehydration,"[(1, [1, 2]), ([2, 3], 4), ([4, 5], 5), (5, [5, 4]), ([4, 6], 1.1), ([1.1, 1], 1), (1, [1, 2]), ([2, 3], [3, 4]), ([4, 7], 2.1), ([2.1, 2], 2)]",
SN2,"[(1, 2), ([2, 3], 3)]",
lactone_reduction,"[(2,3),  ([3,3.1],1), ([1,2],2), (2,5), ('xl1', ['xl1',1]), ([1,2],2), (4,1), ([1,'xl1'],'xl1'), ([4.1,4],4) ]",
